US06716863B2
3-(1-(3-[3-({2-[(E)-2-(2,4-difluorophenyl)ethenyl]-1,3-oxazol-4-yl}methoxy)phenyl]propyl}-1H-imidazol-2-yl)-1,2-propanediol
Using 3-{1-[3-(3-hydroxyphenyl)propyl]-1H-imidazol-2-yl}-1,2-propanediol (203 mg), 65% oily sodium hydride (29 mg) and 4-(chloromethyl)-2-[(E)-2-(2,4-difluorophenyl)ethenyl]-1,3-oxazole (197 mg), the same reaction as Example 2 was carried out to yield the titled compound (220 mg).

reactant | 3-{1-[3-(3-hydroxyphenyl)propyl]-1H-imidazol-2-yl}-1,2-propanediol | 203 mg | OC=1C=C(C=CC1)CCCN1C(=NC=C1)CC(CO)O | C15H20N2O3
reactant | sodium hydride | 29 mg | [H-].[Na+]
reactant | 4-(chloromethyl)-2-[(E)-2-(2,4-difluorophenyl)ethenyl]-1,3-oxazole | 197 mg | ClCC=1N=C(OC1)\C=C\C1=C(C=C(C=C1)F)F | C12H8ClF2NO
product | 3-(1-(3-[3-({2-[(E)-2-(2,4-difluorophenyl)ethenyl]-1,3-oxazol-4-yl}methoxy)phenyl]propyl}-1H-imidazol-2-yl)-1,2-propanediol | 220 mg | FC1=C(C=CC(=C1)F)/C=C/C=1OC=C(N1)COC=1C=C(C=CC1)CCCN1C(=NC=C1)CC(CO)O | C27H27F2N3O4
